US07538123B2
280 mg of 7-(2,3-dihydroxypropyl)-6-methoxy-1-methyl-1,4-dihydrobenz[d][1,3]oxazin-2-one was dissolved in 4 ml of tetrahydrofuran and 4 ml of methanol. Thereafter, 8 ml of water containing 0.29 g of sodium metaperiodate was added to the reaction solution while cooling on ice, and the obtained mixture was then stirred at room temperature for 30 minutes. The reaction solution was diluted with ethyl acetate and then washed with a saturated sodium chloride aqueous solution. The organic layer was dried over magnesium sulfate and then concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate), so as to obtain 167 mg of (6-methoxy-1-methyl-2-oxo-1,4-dihydro-2H-benz[d][1,3]oxazin-7-yl)acetaldehyde.

reactant | 7-(2,3-dihydroxypropyl)-6-methoxy-1-methyl-1,4-dihydrobenz[d][1,3]oxazin-2-one | 280 mg | OC(CC=1C(=CC2=C(N(C(OC2)=O)C)C1)OC)CO | C13H17NO5
reactant | water | 8 ml, 0.29 g | O | H2O
reactant | sodium metaperiodate | I(=O)(=O)(=O)[O-].[Na+]
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | methanol | 4 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (6-methoxy-1-methyl-2-oxo-1,4-dihydro-2H-benz[d][1,3]oxazin-7-yl)acetaldehyde | 167 mg | COC1=CC2=C(N(C(OC2)=O)C)C=C1CC=O | C12H13NO4
